US08168666B2
Preparation of 3-[4-[4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-propylphenyloxy]-1-methylbutyl]-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione
5-Methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione (25.8 mg), triphenylphosphine (22.8 mg) and a solution of ethyl azodicarboxylate in toluene (2.2 mol/L, 34.7 μL) were added to a mixed solution of 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pentan-2-ol (15.0 mg, 34.7 μmol) in tetrahydrofuran (1 mL) at room temperature. After completion of the reaction, the solvent was evaporated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 19.0 mg of the title compound (yield: 89%) as a colorless oil.

reactant | 5-Methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione | 25.8 mg | CC1(C(NC(N1)=O)=O)C1=CC=C(C=C1)OC(C)C | C13H16N2O3
reactant | triphenylphosphine | 22.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | N(=NC(=O)[O-])C(=O)OCC
reactant | 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pentan-2-ol | 34.7 μmol, 15.0 mg | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)OCCCC(C)O)CCC)(F)F | C19H26F6O4
solvent | toluene | 2.2 mol/L, 34.7 μL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-[4-[4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-propylphenyloxy]-1-methylbutyl]-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione | 19.0 mg, yield: 89% | FC(C(C(F)(F)F)(O)C1=CC(=C(C=C1)OCCCC(C)N1C(NC(C1=O)(C1=CC=C(C=C1)OC(C)C)C)=O)CCC)(F)F | C30H36F6N2O5
